### PR TITLE
generalization of continuous_measurable_fun

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

This is a generalization of `continuous_measurable_fun` useful to prove the measurability of e.g. inverse.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~- [ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/lebesgue_measure.v [hunk 1]
```diff
@@ -1470,14 +1470,20 @@ move=> q; case: ifPn => // qfab; apply: is_interval_measurable => //.
 exact: is_interval_bigcup_ointsub.
 Qed.
```
Comment (zstone1) [inline theories/lebesgue_measure.v:1472]: I think we should generalize this further by using the subspace topology. I'm worried that requiring `open D` is too strict because continuous functions from `[0,1]` are important. If we add something here to prove that measurable subspaces have a sensible notion of open...
```suggestion
Lemma open_measurable_subspace (D : set R) (U : set (subspace D)) : 
  measurable D -> open U -> measurable (D `&` U).
Proof.
move=> mD /open_subspaceP [V [oV] VD]; rewrite setIC -VD. 
by apply: measurableI => //; exact: open_measurable.
Qed.
```

File: theories/lebesgue_measure.v [hunk 2]
```diff
@@ -1470,14 +1470,20 @@ move=> q; case: ifPn => // qfab; apply: is_interval_measurable => //.
...
 
-Lemma continuous_measurable_fun (f : R -> R) : continuous f ->
-  measurable_fun setT f.
+Lemma continuous_measurable_fun (f : R -> R) D :
```
Comment (zstone1) [inline theories/lebesgue_measure.v:1473]: Then we can define this in terms of subspace continuity, which weakens the `open D` to just `measurable D`. Note also that when `D` is open, continuous_open_subspace applies and we can recover the original statement. 
```suggestion
Lemma continuous_measurable_fun (D : set R) (f : subspace D -> R) : 
  measurable D -> continuous f -> measurable_fun D f.
Proof.
move=> mD /continuousP cf; apply: (measurability (RGenOpens.measurableE R)).
move=> _ [_ [a [b ->] <-]]; apply: open_measurable_subspace => //.
by exact/cf/interval_open.
Qed.
```

**Review by zstone1 — COMMENTED** [review]
Happy to see you generalize this statement. I think we can use the existing subspace machinery to push the generalization further though. Let me know if you think this is worthwhile.

**Comment by affeldt-aist** [comment]
Perfect! I was reluctant to PR because I didn't know how to generalize. :-)

File: theories/topology.v [hunk 3]
```diff
@@ -1731,12 +1731,25 @@ Notation "A ^°" := (interior A) : classical_set_scope.
 
 Notation continuous f := (forall x, f%function @ x --> f%function x).
 
-Lemma continuousP (S T : topologicalType) (f : S -> T) :
-  continuous f <-> forall A, open A -> open (f @^-1` A).
+Lemma continuousP (S T : topologicalType) (f : S -> T) (D : set S) :
```
Comment (CohenCyril) [inline theories/topology.v:1734]: I'd switch the name and call this one `continuous_inP`

File: theories/lebesgue_measure.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/lebesgue_measure.v]: I'd like to keep the specialized version `open_continuous_measurable_fun` as a corollary.

File: theories/topology.v [hunk 4]
```diff
@@ -1731,12 +1731,25 @@ Notation "A ^°" := (interior A) : classical_set_scope.
 
 Notation continuous f := (forall x, f%function @ x --> f%function x).
 
+Lemma continuous_inP (S T : topologicalType) (f : S -> T) (D : set S) :
```
Comment (CohenCyril) [inline theories/topology.v:1734]: This is a trivial consequence of continuousP for the subspace toploogy.

File: theories/lebesgue_measure.v [hunk 5]
```diff
@@ -1487,12 +1487,32 @@ move=> q; case: ifPn => // qfab; apply: is_interval_measurable => //.
...
+  measurable D -> open U -> measurable (D `&` U).
 Proof.
-move=> /continuousP cf; apply: (measurability (RGenOpens.measurableE R)).
-move=> _ [_ [a [b ->] <-]]; rewrite setTI.
-by apply: open_measurable; exact/cf/interval_open.
+move=> mD /open_subspaceP [V [oV] VD]; rewrite setIC -VD.
+by apply: measurableI => //; exact: open_measurable.
+Qed.
+
+Lemma continuous_measurable_fun (D : set R) (f : subspace D -> R) :
```
Comment (CohenCyril) [inline theories/lebesgue_measure.v:1497]:
```suggestion
Lemma subspace_continuous_measurable_fun (D : set R) (f : subspace D -> R) :
```
?
(to preserve the previous names, also subspace topologies are maybe not the most commonly used, so longer name for them)

File: CHANGELOG_UNRELEASED.md [hunk 6]
```diff
@@ -45,6 +45,15 @@
 
 - in `derive.v`:
   + lemma `diff_derivable`
+- in `topology.v`:
+  + lemma `continuous_inP`
+- in `lebesgue_measure.v`:
+  + lemma `open_measurable_subspace`
+  + lemma ``subspace_continuous_measurable_fun``
+  + corollary `open_continuous_measurable_fun`
+  + lemma `continuous_inP`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:54]:
```suggestion
```
